US04485106
A mixture of 6.0 g of 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine and 125 ml of 40% aqueous methylamine in 15 ml of methanol was heated under reflux for 3 hours. The reaction mixture was then cooled and the crystalline solid present was separated by filtration. It was recrystallized from a mixture of dimethylsulfoxide and water to give 6-methylamino-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine melting at about 318° C.

reactant | 6-chloro-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | 6.0 g | ClC1=NN2C(C=3CCCCC13)=NN=N2 | C8H8ClN5
reactant | methylamine | 125 ml | CN | CH5N
solvent | methanol | 15 ml | CO | CH4O
product | 6-methylamino-7,8,9,10-tetrahydrotetrazolo[5,1-a]phthalazine | CNC1=NN2C(C=3CCCCC13)=NN=N2 | C9H12N6
